Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with Crohn's disease on remicade, who presents with 
abdominal pain, vomiting, and inability to tolerate PO.  Five 
days ago she had sudden onset nausea and abdominal pain in her 
LLQ. Abdominal pain was severe, and not cramping associated with 
bowel movements. She then developed multiple episodes (up to 
10x) of large volume, liquid emesis, non bloody. She had one 
small episode of non bloody diarrhea, and then no further bowel 
movements. She was not passing flatus. Denies fevers, chills. 
Had only been able to tolerate small amounts of POs. She saw Dr. 
___ day prior to admission, who noted that she looked well 
and wanted to observe her at home for a day. On ___, she still 
was not passing flatus and could not tolerate POs. Decision was 
made to bring her to the ED for evaluation. 

On arrival to the ED, she was found to be 
hypotensive/bradycardic, with vitals:  97.5 95 ___ 16 97% RA.  
She was given 3L NS and her BP improved to 121/71. She felt 
improved after IVF. After receiving the IVF, she started passing 
gas. 
- Labs notable for:  WBC 8.4, Cr 0.9; TBili 2.2; lipase 33; UCG 
negative, UA with few bacteria but no pyuria. 
- CT abd/pelvis was obtained, read pending.  
- She was admitted to medicine for further workup. Upon arrival 
to the floor, patient reports nausea is somewhat improved. Mild 
persistent LLQ discomfort, passing gas. Would like to try 
liquids. 
 
Past Medical History:
Crohn's disease  
 
Social History:
___
Family History:
No family members with IBD  
 
 
Physical Exam:
======================
ADMISSION EXAM:
======================
 Vital Signs: 97.5 114/66 60 14 96RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
mild LLQ tenderness  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

========================
DISCHARGE EXAM:
========================
Vital Signs: 98.2, 103 / 62, 62, 16, 99 Ra 
General: Alert, oriented, no acute distress, sitting up in bed, 
appears well
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, no 
oral lesions 
Neck: Supple.   
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft,non-distended, bowel sounds present, mild LLQ 
tenderness, not rigid, no guarding
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: no focal neurologic deficits 
 
Pertinent Results:
=======================
ADMISSION LABS:
=======================

___ 07:50PM BLOOD WBC-8.4 RBC-5.11 Hgb-15.3 Hct-46.4* 
MCV-91 MCH-29.9 MCHC-33.0 RDW-12.5 RDWSD-42.0 Plt ___
___ 07:50PM BLOOD Glucose-96 UreaN-11 Creat-0.9 Na-138 
K-3.8 Cl-98 HCO3-25 AnGap-19
___ 07:50PM BLOOD ALT-14 AST-19 AlkPhos-67 TotBili-2.2*
___ 07:50PM BLOOD Albumin-4.4

=======================
DISCHARGE LABS:
=======================

___ 05:11AM BLOOD WBC-7.0 RBC-4.34 Hgb-13.5 Hct-40.1 MCV-92 
MCH-31.1 MCHC-33.7 RDW-12.8 RDWSD-43.3 Plt ___
___ 05:11AM BLOOD Glucose-78 UreaN-10 Creat-0.8 Na-136 
K-4.1 Cl-99 HCO3-26 AnGap-15
___ 05:11AM BLOOD ALT-12 AST-16 AlkPhos-57 TotBili-2.0* 
DirBili-0.3 IndBili-1.7
___ 05:11AM BLOOD Calcium-9.0 Phos-5.2* Mg-2.8*
___ 05:11AM BLOOD CRP-6.0*

=====================
IMAGING:
=====================
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is mild focal fatty infiltration in segment 4A adjacent to 
the falciform 
ligament (02:23) there is no evidence of focal lesions.  There 
is no evidence 
of intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  The 
colon and 
rectum are within normal limits.  The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is 
trace amount of pelvic free fluid likely physiologic given the 
patient's age. 
  
REPRODUCTIVE ORGANS: The uterus is normal.  No large adnexal 
mass is seen. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. No evidence of bowel obstruction or bowel wall thickening.  
No acute 
abnormality in the abdomen or pelvis. 
2. Appendix is normal. 
3. Trace amount of pelvic free fluid is likely physiologic given 
the patient's 
age. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ with Crohn's disease who presents with 
abdominal pain, vomiting, inability to tolerate PO, and no bowel 
movements with initial concern for acute Crohns flare. 

# Nausea/vomiting; concern for Crohns flare: CT abdomen pelvis 
was negative for small bowel obstruction or significant colitis. 
The patient was given intravenous fluid, Zofran and her diet was 
slowly advanced which she tolerated well. It is unclear what is 
the source of her abdominal pain, however suspect viral 
gastroenteritis versus mild Crohns flare given CRP 6. The 
patient was given 1 dose of solumedrol IV later transitioned to 
budesonide 3mg daily upon discharge. Remicade level was pending 
at time of discharge. Plan to follow-up with Dr. ___ 
further management.

# Hypotension: Patient initial SBP ___ on presentation to the 
ED. Improved with 3L NS. Most consistent with poor PO intake. 

# Hyperbilirubinemia:  
Unclear baseline, may be elevated in setting of acute stress 
(e.g. ___. Of note her symptoms localize to the LLQ 
making acute hepatobiliary pathology less likely.  

Transitional Issues:
=====================
New Medication:
-Budesonide 3mg daily

Changed Medication:
-None

Stopped Medication:
-None

Labs pending at time of discharge:
-Direct bilirubin to assess for ___
-Remicade level (sent to ___ Clinic)
-ESR pending (CRP 6)

Code: Full
# CONTACT: ___ 
Relationship: MOTHER 
Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. InFLIXimab ASDIR mg IV Q7WEEKS 

 
Discharge Medications:
1.  Budesonide 3 mg PO DAILY 
RX *budesonide 3 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  InFLIXimab 300 mg IV Q7WEEKS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Crohns Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for the abdominal pain 
and vomiting you were experiencing. A CT scan of your abdomen 
did not show any evidence of bowel obstruction or significant 
colitis. You were given medications to help with your nausea and 
your diet was slowly advanced. It is unclear what is the cause 
of your symptoms, but it may be due to a mild Crohns flare or a 
viral gastrointestinal infection. You will start a steroid 
medication called Budesonide which will help calm the 
inflammation in your intestinal tract. Please follow-up with Dr. 
___ further management.

We wish you all the best!
-Your ___ Team
 
Followup Instructions:
___